US08748624B2
STEP B: ethyl 3-(5-(2-(((4-bromophenyl)amino)methyl)-5-methoxyphenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (1.3 g, 6.0 mmol) was added to a DCE solution (5 mL) of ethyl 3-(5-(2-formyl-5-methoxyphenyl)picolinamido)propanoate (1.4 g, 4.0 mmol), 4-bromoaniline (1.0 g, 6.0 mmol), and AcOH (0.23 mL, 4.0 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture diluted with EtOAc washed with water and brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 6.0 mmol, 1.3 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | ethyl 3-(5-(2-formyl-5-methoxyphenyl)picolinamido)propanoate | 4.0 mmol, 1.4 g | C(=O)C1=C(C=C(C=C1)OC)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C19H20N2O5
reactant | 4-bromoaniline | 6.0 mmol, 1.0 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | AcOH | 4.0 mmol, 0.23 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | ethyl 3-(5-(2-(((4-bromophenyl)amino)methyl)-5-methoxyphenyl)picolinamido)propanoate | BrC1=CC=C(C=C1)NCC1=C(C=C(C=C1)OC)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C25H26BrN3O4
